US04447259
A mixture of 4-(5-trifluoromethyl-2-pyridyloxy)phenol (25.6 g), N-[(±)-2-chloropropionyl]isoxazolidine (16.4 g) which was prepared as in Example 1, anhydrous potassium carbonate (15.2 g) and acetonitrile (300 ml) was heated under reflux with stirring for 5 hours. After cooling, the reaction mixture was filtered through a suction filter to remove solid matters and the filtrate was concentrated in vacuo. The residue was washed with the addition of water and benzene and the organic layer formed was separated and dried over anhydrous sodium sulfate. The removal of the solvent by a distillation in vacuo gave N-[(±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl]isoxazolidine (35.5 g) as a pale yellow crystalline solid. Recrystallization from a mixture of n-hexane/ethyl acetate yielded a white crystalline solid. m.p. 83°-85° C.

reactant | 4-(5-trifluoromethyl-2-pyridyloxy)phenol | 25.6 g | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | N-[(±)-2-chloropropionyl]isoxazolidine | 16.4 g | ClC(C(=O)N1OCCC1)C | C6H10ClNO2
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N-[(±)-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl]isoxazolidine | 35.5 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)N2OCCC2)C)C=C1)(F)F | C18H17F3N2O4
